US07485732B2
Step 9 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzonitrile
A suspension of 143 mg (0.27 mmole) of 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzonitrile, 0.026 mg (0.216 mmole) of Zn(CN)2, 5 mg (0.005 mmole) of tris(dibenzylideneacetone)dipalladium(0) and 8 mg (0.014 mmole) of 1,1′-Bis(diphenylphosphino)ferrocene in 2.5 mL of dry DMF was degassed for 1 h at rt. Then the solution was heated at 140° C. for 17 h. The solution was concentrated under high vacuum and then was partitioned between 20 mL ether, 20 mL ethyl acetate and 10 mL water. The layers were separated and the aqueous layer was washed with two 20 mL portions of 1:1 ether-ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated. The residue was purified by preparatory TLC using 20% ethyl acetate-hexane to afford the title compound; Mass Spectrum: m/e=476 (M+1, 35Cl), 478 (M+1, 37Cl).

reactant | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzonitrile | 0.27 mmole, 143 mg | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C27H24BrClF2N2
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.216 mmole, 0.026 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.005 mmole, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | 0.014 mmole, 8 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-((1S)-1-{1-[(S)-(4-chlorophenyl)(3-cyanophenyl)methyl]azetidin-3-yl}-2-fluoro-2-methylpropyl)-5-fluorobenzonitrile | ClC1=CC=C(C=C1)[C@H](N1CC(C1)[C@H](C(C)(C)F)C=1C=C(C#N)C=C(C1)F)C1=CC(=CC=C1)C#N | C28H24ClF2N3
